US04024128
By the reaction of 3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide with butylisocyanate in a manner analogous to that described in Example 1, there is obtained 1-butyl-3-[(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl) sulfonyl]urea, m.p. 93° C. (with decomposition).

reactant | 3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine-7-sulfonamide | CN(C(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)N)C | C13H19N3O3S
reactant | butylisocyanate | C(CCC)N=C=O | C5H9NO
product | 1-butyl-3-[(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl) sulfonyl]urea | C(CCC)NC(=O)NS(=O)(=O)C1=CC2=C(CCN(CC2)C(N(C)C)=O)C=C1 | C18H28N4O4S
